US05639913
N,N'-Bis-(1-indanyl)adipamide
Racemic 1-aminoindan (5.7 g, 43 mmole) in ether (20 ml) stirred in ice, was treated dropwise with adipoyl chloride (1.83 g, 10 mmole) in ether (10 ml). After 30 min. the solid was filtered and slurried with water for 45 min. The insoluble solid was collected, air dried (2.82 g) and crystallized from HOAc/H2O, washed with acetic acid/water (1:1), ethanol and ether and then dried to give 2.26 g (60% title compound. Melting point: 227° C.

reactant | Racemic 1-aminoindan | 43 mmole, 5.7 g | NC1CCC2=CC=CC=C12 | C9H11N
reactant | adipoyl chloride | 10 mmole, 1.83 g | C(CCCCC(=O)Cl)(=O)Cl | C6H8Cl2O2
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
product | N,N'-Bis-(1-indanyl)adipamide | 60% | C1(CCC2=CC=CC=C12)NC(CCCCC(=O)NC1CCC2=CC=CC=C12)=O | C24H28N2O2
